US04863920
3.6 g (10 mmol) of 8-fluoro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was stirred at room temperature overnight with 1.5 g (11 mmol) of o-chlorophenylacetylene, 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 15 mg of copper(I) iodide in 20 ml of diethylamine. The reaction mixture was diluted with 175 ml of methylene chloride and washed three times with water. After drying and evaporation of the solution the residue was chromatographed on silica gel while eluting with methylene chloride/methanol (99:1). By recrystallization of the evaporated eluate there was obtained 3-[(o-chlorophenyl)ethynyl]-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 259°-261°.

reactant | 8-fluoro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 10 mmol, 3.6 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3I)C)=O)C1 | C12H9FIN3O
reactant | o-chlorophenylacetylene | 11 mmol, 1.5 g | ClC1=C(C=CC=C1)C#C | C8H5Cl
solvent | diethylamine | 20 ml | C(C)NCC | C4H11N
solvent | methylene chloride | 175 ml | C(Cl)Cl | CH2Cl2
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 15 mg | [Cu]I
product | 3-[(o-chlorophenyl)ethynyl]-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=C(C=CC=C1)C#CC=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C20H13ClFN3O
